US08895571B2
(2S)-2-amino-3-(2-fluorophenyl)propan-1-ol
To a solution of (2S)-2-amino-3-(2-fluorophenyl)propanoic acid (10.00 g, 54.59 mmol) in tetrahydrofuran (25 mL) with stirring was added 1.0 M borane-THF complex in THF (100.0 mL) (freshly opened) dropwise to keep the internal temperature around 0° C. After addition, the reaction mixture was stirred at room temperature for 3 hrs. Then the mixture was cooled with an ice-bath, quenched with AcOH:MeOH (1:5, 50 mL), and partitioned between saturated aqueous NaHCO3 solution and dichloromethane (DCM). The organic phases were dried over sodium sulfate, filtered, and evaporated under vacuum to give an oil residue which was purified on prep. HPLC to give the purified desired product. LC-MS found: 170.1 (M+H)+.

reactant | (2S)-2-amino-3-(2-fluorophenyl)propanoic acid | 54.59 mmol, 10.00 g | N[C@H](C(=O)O)CC1=C(C=CC=C1)F | C9H10FNO2
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | THF | 100.0 mL | C1CCOC1 | C4H8O
product | (2S)-2-amino-3-(2-fluorophenyl)propan-1-ol | N[C@H](CO)CC1=C(C=CC=C1)F | C9H12FNO
